US08471005B2
141c) 2-Thioxo-2,3-dihydro-1H-pyrrolo[2,1-f][1,2,4]triazin-4-one
Into a 1000 mL beaker was added 1-(3-Benzoyl-thioureido)-1H-pyrrole-2-carboxylic acid ethyl ester (55.47 g, 0.1748 mol) and 2M of Sodium hydroxide in Water (350 mL). The mixture was heated at 85° C. for 75 minutes. After cooling to room temperature, the solid was dissolved with Ethanol (100 mL). Acetic acid (41.7 mL, 0.734 mol) was added at 0° C. and stirred for 30 minutes. The solid was filtered and washed with cold EtOH (50 mL) to afforded a white solid. The white solid was stirred in Ether (300 mL) for 20 minutes. The solid was filtered and washed with Ether (200 mL) to give a white solid. Because a large amount of desired product was water soluble, the water filtrate was reduced and the product was triturated with water to afford an additional amount of desired product. After drying under vacuum overnight, 43 grams of 2-Thioxo-2,3-dihydro-1H-pyrrolo[2,1-f][1,2,4]triazin-4-one was isolated as a white powder. Note. The product contained a significant amount of water but was carried on without further drying. 1H NMR (400 MHz, DMSO, d6) δ 9.91 (s, 1H), 7.09 (m, 1H), 6.53 (m, 1H), 6.21 (m, 1H).

reactant | 1-(3-Benzoyl-thioureido)-1H-pyrrole-2-carboxylic acid ethyl ester | 0.1748 mol, 55.47 g | C(C)OC(=O)C=1N(C=CC1)NC(=S)NC(C1=CC=CC=C1)=O | C15H15N3O3S
reactant | Sodium hydroxide | 2M | [OH-].[Na+]
reactant | Ethanol | 100 mL | C(C)O | C2H6O
reactant | Acetic acid | 0.734 mol, 41.7 mL | C(C)(=O)O | C2H4O2
solvent | Water | 350 mL | O | H2O
solvent | Ether | 300 mL | CCOCC | C4H10O
product | 2-Thioxo-2,3-dihydro-1H-pyrrolo[2,1-f][1,2,4]triazin-4-one | S=C1NN2C(C(N1)=O)=CC=C2 | C6H5N3OS
